US07071201B2
Example 20: Synthesis of 1-[1-(4-hydroxyphenethyl)piperidin-4-yl]indoline
1-[1-(4-Methoxyphenethyl)piperidin-4-yl]indoline (0.23 g) was dissolved in a 47% aqueous solution (5 ml) of hydrobromic acid and the resultant solution was heated under reflux for 90 min. After allowing to cool, the resultant mixture was poured into a saturated aqueous solution of sodium bicarbonate (pH 9-10), extracted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by NH-silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (0.113 g) as colorless crystals (yield: 75.7%).

reactant | 1-[1-(4-Methoxyphenethyl)piperidin-4-yl]indoline | 0.23 g | COC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C22H28N2O
reactant | sodium bicarbonate | pH 9-10 | C([O-])(O)=O.[Na+]
solvent | hydrobromic acid | Br | BrH
product | 1-[1-(4-hydroxyphenethyl)piperidin-4-yl]indoline | 0.113 g, yield: 75.7% | OC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C21H26N2O
